US08669271B2
1-[4-(2,3-Dihydro-benzofuran-2-yl)-piperidin-1-yl]-2,2,2-trifluoro-ethanone
A mixture of 1-(4-benzofuran-2-yl-piperidin-1-yl)-2,2,2-trifluoro-ethanone (11.50 g), 10% palladium on carbon (1.15 g), ethyl acetate (135 mL) and methanol (15 mL) is shaken under hydrogen atmosphere (3.5 bar) at room temperature for 24 h. The catalyst is then separated by filtration and the filtrate is concentrated to give an oil that is submitted to the next reaction without further purification. Yield: 11.12 g (crude); LC (method 2): tR=1.34 min.

reactant | 1-(4-benzofuran-2-yl-piperidin-1-yl)-2,2,2-trifluoro-ethanone | 11.50 g | O1C(=CC=C2C1=CC=C2)C2N(CCCC2)C(C(F)(F)F)=O | C15H14F3NO2
reactant | ethyl acetate | 135 mL | C(C)(=O)OCC | C4H8O2
catalyst | palladium on carbon | 1.15 g | [Pd] | Pd
solvent | methanol | 15 mL | CO | CH4O
product | 1-[4-(2,3-Dihydro-benzofuran-2-yl)-piperidin-1-yl]-2,2,2-trifluoro-ethanone | O1C(CC2=C1C=CC=C2)C2CCN(CC2)C(C(F)(F)F)=O | C15H16F3NO2
